US07399777B2
4,5-Dimethyl-2-(4-(2-propyl)-phenyl)-oxazole 3-oxide
18.4 g of diacetyl monoxime and 29.6 g of 4(2-propyl)-benzaldehyde are added to 50 ml of glacial acetic acid, and HCl gas is introduced with ice-cooling for 30 minutes. The product is precipitated as the hydrochloride by addition of methyl tert-butyl ether and filtered off with suction, and the precipitate is washed with methyl tert-butyl ether. The precipitate is suspended in a mixture of dichloromethane and water, and a basic pH is established using ammonia. The mixture is extracted three times with, in each case, 500 ml of dichloromethane and ethyl acetate, the combined organic phases are dried over MgSO4 and the solvent is then removed under reduced pressure. This gives 38.2 g 4,5-dimethyl-2-(4-(2-propyl)-phenyl)-oxazole 3-oxide as a yellowish solid.

reactant | diacetyl monoxime | 18.4 g | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 4(2-propyl)-benzaldehyde | 29.6 g | CC(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | HCl | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dimethyl-2-(4-(2-propyl)-phenyl)-oxazole 3-oxide | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(C)C)[O-] | C14H17NO2
